US06410592B1
B: cis-2-(N-Benzylmethylamino)methyl-1,6-diphenyl-1,2,3,4-tetrahydronaphthalene
Benzene boronic acid (301 mg), tetrakis(triphenylphosphine)palladium(0) (65 mg), lithium chloride (238 mg) and aqueous sodium carbonate solution (2 M, 2.25 cm3) were added to a stirred solution of cis-2-(N-benzylmethylamino)methyl-6-trifluoromethanesulfonyl-1-phenyl-1,2,3,4-tetrahydronaphthalene (1.1 g) in 1,2-dimethoxyethane (60 cm3) under an atmosphere of nitrogen. The stirred mixture was heated at 90° C. for 46 h before being allowed to cool to room temperature. Water (100 cm3) and ethyl acetate (100 cm3) were added and the organic layer was washed with water (3×100 cm3), dried (Na2SO4), and the solvent was removed under reduced pressure. The crude product (908 mg) was purified by column chromatography [silica, eluting with toluene-ethyl acetate (19:1)] to afford the title compound as a gum (452 mg); positive ion ESI (M+H)+ 417.9.

reactant | Benzene boronic acid | 301 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | lithium chloride | 238 mg | [Cl-].[Li+]
reactant | sodium carbonate | 2 M, 2.25 cm3 | C([O-])([O-])=O.[Na+].[Na+]
reactant | cis-2-(N-benzylmethylamino)methyl-6-trifluoromethanesulfonyl-1-phenyl-1,2,3,4-tetrahydronaphthalene | 1.1 g | C(C1=CC=CC=C1)CNC[C@@H]1[C@@H](C2=CC=C(C=C2CC1)S(=O)(=O)C(F)(F)F)C1=CC=CC=C1 | C26H26F3NO2S
solvent | 1,2-dimethoxyethane | 60 cm3 | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 65 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
solvent | Water | 100 cm3 | O | H2O
product | cis-2-(N-Benzylmethylamino)methyl-1,6-diphenyl-1,2,3,4-tetrahydronaphthalene | 452 mg | C(C1=CC=CC=C1)CNC[C@@H]1[C@@H](C2=CC=C(C=C2CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C31H31N
